*S8020L Littelfuse SCR; 800V 20A
*
.SUBCKT S8020L     1  2  3
*       TERMINALS: A  G  K
Qpnp    6          4  1 Pfor      OFF
Qnpn    4          6  5 Nfor      OFF
Rfor    6          4  500MEG
Rrev    1          4  500MEG
Rshort  6          5  20
Rlat    2          6  2.64
Ron     3          5  13.1m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=10F       IBV=1U    BV=800)
.MODEL  Zgate      D  (IS=10F       IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=10P       BF=3.0    CJE=200p   CJC=200p   TF=0.3U)
.MODEL  Nfor       NPN(IS=10P       ISE=1E-9  BF=100.0   RC=13.6M   CJE=1000p   CJC=200p    TF=0.3U)
.ENDS