*L6008L6 Littelfuse TRIAC;800V 8A
*
.SUBCKT L6008L6   1  2  3
*     TERMINALS: MT2 G MT1
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  40MEG
RT2 1 7  61.6M
RH  7 6  52.5
RGP 8 3  120
RG  2 8  58
RS  8 4  12
DN  9 2  DIN OFF
RN  9 3  61.2
GNN  6 7 9 3 55.4M
GNP  4 5 9 3 70.5M
DP 2 10  DIP OFF
RP 10 3  35.6
GP  7 6 10 3 37.3M
.MODEL DIN  D (IS=76.4F)
.MODEL DIP  D (IS=76.4F N=1.19)
.MODEL DZ   D (IS=76.4F N=1.5 IBV=20U BV=800)
.MODEL POUT PNP (IS=76.4F BF=5 CJE=1.68N TF=63.8U)
.MODEL NOUT NPN (IS=76.4F BF=20 CJE=1.68N CJC=335P TF=4.25U)
.ENDS
*****