*SRC=Q8004L4;Q8004L4;TRIACS;TECCOR;800V 4A
*SYM=TRIAC
.SUBCKT Q8004L4   1 2 3
*     TERMINALS: MT2 G MT1
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  16MEG
RT2 1 7  0.123
RH  7 6  17.5
RGP 8 3  24
RG  2 8  11.6
RS  8 4  2.4
DN  9 2  DIN OFF
RN  9 3  12.2
GNN  6 7 9 3 0.166
GNP  4 5 9 3 0.352
DP 2 10  DIP OFF
RP 10 3  7.12
GP  7 6 10 3 0.112
.MODEL DIN  D (IS=229F)
.MODEL DIP  D (IS=229F N=1.19)
.MODEL DZ   D (IS=229F N=1.5 IBV=50U BV=800)
.MODEL POUT PNP (IS=229F BF=5 CJE=1.68N TF=76.5U)
.MODEL NOUT NPN (IS=229F BF=20 CJE=1.68N CJC=335P TF=5.1U)
.ENDS