.MODEL BC327_25mod PNP(IS=1.08E-13 NF=0.99 ISE=2.713E-14 NE=1.4 BF=385.7 IKF=0.3603 VAF=31.29 NR=0.9849 ISC=5.062E-13 NC=1.295 BR=20.57 IKR=0.054 VAR=11.62 RB=1 IRB=1.00E-06 RBM=0.5 RE=0.1415 RC=0.2623 XTB=0 EG=1.11 XTI=3 CJE=5.114E-11 VJE=0.8911 MJE=0.4417 TF=7.359E-10 XTF=1.859 VTF=3.813 ITF=0.4393 PTF=0 CJC=2.656E-11 VJC=0.62 MJC=0.4836 XCJC=0.459 TR=5.00E-08 CJS=0 VJS=0.75 MJS=0.333 FC=0.99 Vceo=45 Icrating=500m mfg=Philips)

* BC327-25 PNP transistor subcircuit
* Pins: C B E
.SUBCKT BC327_25 C B E
Q1 C B E BC327_25mod
.ENDS BC327_25


.MODEL BC327_40mod PNP(IS=2.077E-13 NF=1.005 ISE=1.411E-14 NE=1.3 BF=449.8 IKF=0.36 VAF=29 NR=1.002 ISC=2.963E-13 NC=1.25 BR=20.92 IKR=0.104 VAR=10 RB=40 IRB=1.00E-05 RBM=5.3 RE=0.14 RC=0.32 XTB=0 EG=1.11 XTI=3 CJE=5E-11 VJE=0.9296 MJE=0.456 TF=7E-10 XTF=3.25 VTF=2.5 ITF=0.79 PTF=80 CJC=2.675E-11 VJC=0.8956 MJC=0.4638 XCJC=0.459 TR=3.50E-08 CJS=0 VJS=0.75 MJS=0.333 FC=0.935 Vceo=45 Icrating=500m mfg=Philips)

* BC327-40 PNP transistor subcircuit
* Pins: C B E
.SUBCKT BC327_40 C B E
Q1 C B E BC327_40mod
.ENDS BC327_40
