******
* Spice Model
* Item: CMPS5064
* Date: 12/12/13
* Revision History: REV A
*==========================================================
* This model was developed by: 
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* Modeling services provided by     
* Interface Technologies www.i-t.com 
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be modified, or altered without the consent of Central Semiconductor Corp. 
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
*
*==========================================================
******
*SRC=CMPS5064;CMPS5064;SCRs;General; Central Semi 400V 0.25A
*SYM=SCR
.SUBCKT CMPS5064 1 2 3 
* EXTERNAL NODE DESIGNATIONS
* 1 = Anode
* 2 = Gate
* 3 = Cathode
* R1 5 3 1e8
R1 5 3 1e9
R2 6 7 1e9
R3 1 4 100
R4 2 7 1e9
EK 8 3 2 7 1
VFK 10 3 DC 0
FK 6 7 VFK 1
VFP 11 3 DC 0
FP 3 7 VFP -1
DA 9 6 DMDA OFF
.MODEL DMDA D (IS=1.10417e-15 TT=2.88539e-05 CJO=2p EG=0.1 XTI=1)
DG 7 6 DMDG OFF
.MODEL DMDG D (IS=1.0919e-15 TT=1e-09 EG=0.1 XTI=1)
DK 7 10 DMDK OFF
.MODEL DMDK D (IS=1.0919e-15 BV=6 IBV=1e-3 EG=1.3 TT=1e-09 XTI=1)
VFA 5 9 DC 0 
FA 6 7 VFA 0.0111111
RA 4 5 0.421428
LA 1 4 1e-08
RK 7 3 15000
CK 7 3 2.56778e-09
RG 55 7 1372.26
RG1 55 2 1
ERG1 20 3 2 55 1
VFC 21 3 DC 0
CG 6 7 3.482e-13
R5 8 11 8158.15
R9 20 21 10
FC 55 3 VFC 0
GBM 0 31 1 3 1
* RBM 31 0 1
RBM 31 0 1e-3
CBM 31 0 1
GBR 0 32 31 0 1m
* RBR 32 0 1k
RBR 32 0 1
* RDRM 32 36 9.9825e+06
* RRRM 32 37 9.9825e+06
RDRM 32 36 800e+06
RRRM 32 37 800e+06
GBRK 0 38 1 3 .2
RBRK 38 0 5
DDRM 112 38 DDRM
DRRM 112 111 DRRM
.MODEL DDRM D (BV=404
+ IS=1e-14 RS=0 N=1 TT=0 CJO=0
+ VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
+ KF=0 AF=1 IBV=1e-3 TNOM=27)
.MODEL DRRM D (BV=404
+ IS=1e-14 RS=0 N=1 TT=0 CJO=0
+ VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
+ KF=0 AF=1 IBV=1e-3 TNOM=27)
VBK 111 0 DC 0
FBK 1 3 VBK .95
FBG 3 2 VBK .05
DF1 36 41 DMDF
DF2 42 37 DMDF
.MODEL DMDF D (IS=1P RS=1)
VDRM 41 0 DC 0
FDRM 1 3 VDRM 1
VRRM 42 0 DC 0
FRRM 1 3 VRRM 1
DF3 32 34 DBDR
.MODEL DBDR D
VBDR 34 0 DC 480
FBDR 1 3 VBDR 1
DF4 35 32 DBRR
.MODEL DBRR D
VBRR 0 35 DC 480
FBRR 1 3 VBRR 1
*-- SPICE3 DIODE MODEL DEFAULT PARAMETER
*  VALUES ARE ASSUMED
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
.ENDS CMPS5064
******
