* Spice Model
* Item: CS223-4M
* Date: 6/19/20
* Revision History: A
*==========================================================
* This model was developed by: 
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be modified, or altered without the consent of Central Semiconductor Corp. 
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
**==========================================================
*SRC=sm_SCR;sm_SCR;SpiceMod;Test;DUT
*DWG CIRCUITS\SpiceMod\SCR\SCR.DWG
* SCRs;General;
*SYM=SCR
.SUBCKT CS223-4M 1 2 3
*HELP issyntax.hlp "SCRs"
* TERMINALS: A G K
QP 6 4 1 POUT Temp = { Temp }
QN 4 6 3 NOUT Temp = { Temp } OFF
RGK 3 6 1.00k
RG 2 6 356
DF 6 4 ZF
DR 1 4 ZR
DGK 6 3 ZGK
.MODEL ZF D ( IS=19.2f IBV=196n BV=600 )
.MODEL ZR D ( IS=19.2f IBV=10.0n BV=600 )
.MODEL ZGK D ( IS=19.2f IBV=10.0n BV=20.0 )
.MODEL POUT PNP ( IS=19.2p BF=2 BR=2 CJE=83.4p
+ RC=0.331 ISE=29.6n ISC=5.00u NE=2.00 TF=55.2n TR=627n )
.MODEL NOUT NPN ( IS=19.2p BF=50.0 BR= 2 CJE=417p CJC=83.4p
+ RC=0.331 ISE=54.5n ISC=5.00u NE=2.00 TF=18.4n TR=627n)
.ENDS
