* Spice Model
* Item:2N6071B
* Date:8/10/2017
* Revision History:A
*==========================================================
* This model was developed by: 
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be modified, or altered without the consent of Central Semiconductor Corp. 
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
**==========================================================
*SRC=2n6071b;2n6071b;TRIACs;General;200V 4.00A CentralSemi Triac
*SYM=TRIAC
* *******
* Modeling Services by
* Interface Technologies
* www.i-t.com
* dan@i-t.com
* 20170810
* ******
.SUBCKT 2N6071B  1 2 3
*     TERMINALS: MT2 G MT1
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ
DR  6 11  DZ
RF  4 6  20.0Meg
RT2 1 7  0.183
RH  7 6  187
RGP 8 3  170
RG  2 8  230
RS  8 4  97.9
DN  9 2  DIN
RN  9 3  40.0k
GNN  6 7 9 3 4.13m
GNP  4 5 9 3 4.32m
DP 2 10  DIP
RP 10 3  40.0k
GP  7 6 10 3 2.29m
.MODEL DIP D ( IS=21.4f N=1.50 )
.MODEL DIN D ( IS=21.4f)
.MODEL DZ D ( IS=21.4f N=1.5 IBV=10.0u BV=200 )
.MODEL POUT PNP ( IS=21.4f BF=5 BR=.1 CJE=1.88n TF=38.2u )
.MODEL NOUT NPN  ( IS=21.4f BF=20 BR=.1 CJE=1.88n CJC=375p TF=2.55u )
.ENDS
